US07608639B2
3-{4-[3-(2-Benzoyl-4-chloro-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid
The title compound is prepared by reacting the compound of 3-[4-(3-bromo-5-methyl-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester with (5-chloro-2-hydroxy-phenyl)-phenyl-methanone as in Example 18 to afford 0.244 g (38%). 1H NMR (400 MHz, CDCl3); HRMS (ES+) m/z exact mass calculated for C30H25O5Cl 501.1469, found 501.1474.

reactant | 3-[4-(3-bromo-5-methyl-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)Br)C)=O | C18H19BrO3
reactant | (5-chloro-2-hydroxy-phenyl)-phenyl-methanone | ClC=1C=CC(=C(C1)C(=O)C1=CC=CC=C1)O | C13H9ClO2
product | 3-{4-[3-(2-Benzoyl-4-chloro-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid | C(C1=CC=CC=C1)(=O)C1=C(OC=2C=C(OC3=CC(=C(C=C3)CCC(=O)O)C)C=C(C2)C)C=CC(=C1)Cl | C30H25ClO5
